US03998822
0.5 parts by weight of 1,4-dichloro-7-methyl-8-methoxypyrido (3,4-d) pyridazine and 3.6 parts by weight of morpholine are heated together at 80° C for 1.5 hours and, then, the excess morpholine is distilled off. To the residue is added water, whereupon an oily precipitate is obtained. This oil is triturated with a small amount of methanol to obtain crystals of 7-methyl-8-methoxy-1,4-dimorpholinopyrido (3,4-d)-pyridazine. Recrystallization from a mixture of methanol and water (1:3) yields crystals melting at 145°-146° C. Yield 0.5 parts by weight. Elementary analysis for C17H24O3N5

reactant | 1,4-dichloro-7-methyl-8-methoxypyrido (3,4-d) pyridazine | ClC1=C2C(=C(N=N1)Cl)C=NC(=C2OC)C | C9H7Cl2N3O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 7-methyl-8-methoxy-1,4-dimorpholinopyrido (3,4-d)-pyridazine | CC1=C(C=2C(=C(N=NC2N2CCOCC2)N2CCOCC2)C=N1)OC | C17H23N5O3
